US09421205B2
(c) tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate (I94)
2,4-Dichloro-5-(trifluoromethyl)pyrimidine (0.546 g, 2.52 mmol) in 1:1 dichloroethane: tert-butanol was cooled to 0° C. under nitrogen. A 1.0 M solution of zinc(II) chloride in diethyl ether (3.43 mL, 3.34 mmol) was added, and the mixture stirred for one hour at 0° C. tert-Butyl 4-(4-aminobenzyl)piperazine-1-carboxylate (I93) (0.667 g, 2.29 mmol) in 1:1 dichloroethane: tert-butanol (20 mL) was added dropwise over thirty minutes, followed by triethylamine (0.351 mL, 2.52 mmol) in 1:1 dichloroethane: tert-butanol (10 mL). The mixture was stirred overnight, allowing the ice bath to come to room temperature over this time. The mixture was concentrated onto silica gel and chromatographed (40 g silica cartridge, 0-100% ethyl acetate/petroleum benzine 40-60° C.) to give a residue which was triturated with petroleum benzine 40-60° C. to give the title compound (I94) (0.976 g, 90%) as an off white solid; 1H NMR (400 MHz, d4-MeOD) δ 8.68 (d, J=0.6 Hz, 1H), 7.85 (d, J=8.6 Hz, 2H), 7.51 (d, J=8.6 Hz, 2H), 4.30 (s, 2H), 3.27-3.00 (br, overlaps with solvent), 1.47 (s, 9H). LCMS Method C: 5.08 min; m/z 472.1 [M+H]+; m/z 470.1 [M−H]−.

reactant | 2,4-Dichloro-5-(trifluoromethyl)pyrimidine | 2.52 mmol, 0.546 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
reactant | diethyl ether | 3.34 mmol, 3.43 mL | C(C)OCC | C4H10O
reactant | tert-Butyl 4-(4-aminobenzyl)piperazine-1-carboxylate | 2.29 mmol, 0.667 g | NC1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H25N3O2
reactant | triethylamine | 2.52 mmol, 0.351 mL | C(C)N(CC)CC | C6H15N
catalyst | zinc(II) chloride | [Cl-].[Zn+2].[Cl-]
solvent | tert-butanol | 10 mL | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 20 mL | C(C)(C)(C)O | C4H10O
product | tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C21H25ClF3N5O2
